US08455703B2
Synthesis of 1-octyl-3-methylimidazolium tetracyanoborate as Illustrated in FIG. 13
Analogously to Example A, 183 g of potassium tetracyanoborate are added to 250 g of 3-methyl-1-octylimidazolium chloride, and the mixture is subjected to corresponding work-up, giving a clear, slightly yellowish liquid.

reactant | potassium tetracyanoborate | 183 g | C(#N)[B-](C#N)(C#N)C#N.[K+]
reactant | 3-methyl-1-octylimidazolium chloride | 250 g | [Cl-].CN1C=[N+](C=C1)CCCCCCCC
product | 1-octyl-3-methylimidazolium tetracyanoborate | C(#N)[B-](C#N)(C#N)C#N.C(CCCCCCC)[N+]1=CN(C=C1)C | InChI=1S/C12H23N2.C4BN4/c1-3-4-5-6-7-8-9-14-11-10-13(2)12-14;6-1-5(2-7,3-8)4-9/h10-12H,3-9H2,1-2H3;/q+1;-1
